US05534646
2,4-Di{2,6-di-tert-butyl-4-[2-(n-octadecyloxycarbonyl)ethyl]phenoxy }-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine
The procedure of Example 1 is repeated using 2,4-dichloro-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine, n-octadecyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate and triethylamine to give the title compound.

reactant | 2,4-dichloro-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine | ClP1N(P(N1C(C)(C)C)Cl)C(C)(C)C | C8H18Cl2N2P2
reactant | n-octadecyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate | C(C)(C)(C)C=1C=C(CCC(=O)OCCCCCCCCCCCCCCCCCC)C=C(C1O)C(C)(C)C | C35H62O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,4-Di{2,6-di-tert-butyl-4-[2-(n-octadecyloxycarbonyl)ethyl]phenoxy }-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine | C(C)(C)(C)C1=C(OP2N(P(N2C(C)(C)C)OC2=C(C=C(C=C2C(C)(C)C)CCC(=O)OCCCCCCCCCCCCCCCCCC)C(C)(C)C)C(C)(C)C)C(=CC(=C1)CCC(=O)OCCCCCCCCCCCCCCCCCC)C(C)(C)C | C78H140N2O6P2
